US05202409
In the same manner as in Synthetic example 1, 2-allyl-6 -methylphenol and 1-mercapto-2-propanol were reacted to obtain 2-[3-(2-hydroxypropylthio)propyl]-6-methylphenol.

reactant | 2-allyl-6 -methylphenol | C(C=C)C1=C(C(=CC=C1)C)O | C10H12O
reactant | 1-mercapto-2-propanol | SCC(C)O | C3H8OS
product | 2-[3-(2-hydroxypropylthio)propyl]-6-methylphenol | OC(CSCCCC1=C(C(=CC=C1)C)O)C | C13H20O2S
